US07449466B2
Production Example 9 was repeated except that 5-bromo-2-methoxytoluene and 1-(2-phenethyl)piperazine were replaced with 1-benzyloxy-4-bromo-2-fluorobenzene (6.742 g) and piperazine (12.404 g), respectively. The resulting crude product was purified on silica gel column chromatography (eluent, chloroform: methanol=2:1) to provide 1-(4-benzyloxy-3-fluorophenyl)piperazine (3.716 g).

reactant | 5-bromo-2-methoxytoluene | BrC=1C=CC(=C(C1)C)OC | C8H9BrO
reactant | 1-benzyloxy-4-bromo-2-fluorobenzene | 6.742 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)F | C13H10BrFO
reactant | piperazine | 12.404 g | N1CCNCC1 | C4H10N2
product | 1-(4-benzyloxy-3-fluorophenyl)piperazine | 3.716 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCNCC1)F | C17H19FN2O
